US04237067
N-(3-dimethylaminopropyl)methacrylamide.
117.2 g (1.0 mole) of 2-methyl-3-methoxypropionamide are heated with 107.3 g (1.05 mole) of 3-dimethylaminopropylamine for 20 hours in a temperature range of 145°-175° C. until the evolution of ammonia is complete. The mixture is allowed to cool, 1.5 g of sodium hydroxide is added and the mixture is heated in a high vacuum at 90° to 110° C. The methanol is split off within about 30 minutes, vigorous foaming occurring. The temperature is increased and 122 g (0.72 mole=72% of the theoretical yield) of colorless oil having a Bp0.1 of 106°-110° C. are distilled off.

reactant | 2-methyl-3-methoxypropionamide | 1.0 mole, 117.2 g | CC(C(=O)N)COC | C5H11NO2
reactant | 3-dimethylaminopropylamine | 1.05 mole, 107.3 g | CN(CCCN)C | C5H14N2
reactant | ammonia | N | H3N
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
product | N-(3-dimethylaminopropyl)methacrylamide | CN(CCCNC(C(=C)C)=O)C | C9H18N2O
